US05017212
2-Chloropyrrolo[1,2-a]pyridine
To a suspension of 0.20 g of ethyl 2-chloropyrolo [1,2-a]pyridin-1-carboxylate in 10 ml of water, 1.5 ml of sulfuric acid is added and refluxed for 3 hours. After cooling, the mixture is neutralized with an aqueous saturated sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract is dried on anhydrous sodium sulfate and distilled to remove ethyl acetate. The residue is purified by silica gel chromatography (eluent: ethyl acetate-hexane) to give crystals of the title compound

reactant | ethyl 2-chloropyrolo [1,2-a]pyridin-1-carboxylate | 0.20 g | ClC=1C(=C2N(C=CC=C2)C1)C(=O)OCC | C11H10ClNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Chloropyrrolo[1,2-a]pyridine | ClC=1C=C2N(C=CC=C2)C1 | C8H6ClN
